US06693123B2
To a solution of 4-imidazole acetic acid hydrochloride (1 g, 6.15 mmol) in 6.2 mL of 1 N NaOH and 18 mL of water was added 4-toluenesulfonyl chloride (1.29 g, 6.77 mmol) and the mixture was stirred at ambient temperature. The pH of the mixture was maintained at 8.5 by addition of 1 N NaOH. After 3 hours, a total volume of 12 mL of 1 N NaOH was added and a clear solution was obtained. This solution was extracted with ether and the aqueous solution was acidified to pH 1 with 3 N HCl. The mixture was cooled in an ice bath and N-(4-Toluenesulfonyl)imidazole-4-yl-acetic acid was isolated by filtration (white crystals, 1.10 g, 63% yield). m.p. 105-106° C. (decomp); 1H NMR (CDCl3) δ 10.0 (br, 1H), 8.04 (s, 1H), 7.82 (d, J=8.2 Hz, 2H), 7.37 (d, J=8.2 Hz, 2H), 7.28 (s, 1H), 3.65 (s, 2H), 2.45 (s, 3H). 13C NMR (CD3OD) δ 173.6, 148.1, 138.9, 138.0, 136.1, 131.6, 128.7, 117.0, 34.0, 21.6.

reactant | 4-imidazole acetic acid hydrochloride | 6.15 mmol, 1 g | Cl.N1C=NC(=C1)CC(=O)O
reactant | 4-toluenesulfonyl chloride | 6.77 mmol, 1.29 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | NaOH | 1 N, 6.2 mL | [OH-].[Na+]
solvent | water | 18 mL | O | H2O
solvent | NaOH | 1 N | [OH-].[Na+]
solvent | NaOH | 1 N | [OH-].[Na+]
product | N-(4-Toluenesulfonyl)imidazole-4-yl-acetic acid | 63% yield | C1(=CC=C(C=C1)S(=O)(=O)N1C=NC(=C1)CC(=O)O)C | C12H12N2O4S
